* Z:\mnt\design.r\spice\examples\3524.asc
XU1 IN IN N004 Vout N001 N010 N009 N006 N006 N013 MP_01 N016 N018 N017 N015 N011 N012 N007 N005 N003 N002 IN N008 IN 0 LTC3524
L1 IN N002 3.3µ
L2 IN N001 10µ
V1 IN 0 3.6
D1 N002 N003 MBR0540
C1 N003 0 10µ
D2 N005 0 NSCW100 N=4
R1 N008 0 100K
R2 Vout N004 1Meg
R3 N004 0 324K
C2 N006 0 .47µ
C3 Vout 0 10µ
C4 N009 N010 .1µ
R4 N015 N017 2Meg
R5 N017 0 220K
C5 N015 0 .47µ
C6 N011 N012 .1µ
R6 N016 N018 1Meg
R7 N018 Vout 470K
C7 N016 0 .47µ
D10 N016 N014 CMDSH2-3
D11 N014 0 CMDSH2-3
C8 N013 N014 .1µ
R8 Vout 0 200
R9 N015 0 6.25K
R10 N016 0 3.75K
D3 N007 0 NSCW100 N=4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 7m startup
.lib LTC3524.sub
.backanno
.end
